US07985759B2
To a suspension of NaH (60% dispersed in nujol, 1.92 g, 80 mmol) in THF (80 mL) cooled to ice bath temperature was added 4-hydroxyadamantanone (6.64 g, 40 mmol) dissolved in THF (80 mL) via a syringe over a period of 15 minutes. After stirring the reaction mixture for 30 min., nBu4NI (1.4 g, 4 mmol) was added followed by the addition of benzylbromide (5.26 mL). The reaction mixture was warmed to room temperature and stirred for 16 h until TLC revealed disappearance of hydroxyadamantanone. Excess NaH was quenched by adding sat. aq NH4Cl solution to the ice cooled reaction mixture. The two layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, and the solvent was evaporated under reduced pressure to obtain a crude reaction mass which was purified by column chromatography to obtain 5-(benzyloxy)adamantan-2-one as a gummy liquid (7.93 g) in 77% yield. m/z (M+1), 257; 1H NMR (CDCl3) 300 MHz δ 7.60-7.20 (m, 5H), 4.51 (s, 2H), 2.72-2.63 (m, 2H), 2.40-2.36 (m, 1H), 2.35-1.92 (m, 10H).

reactant | NaH | 80 mmol, 1.92 g | [H-].[Na+]
reactant | 4-hydroxyadamantanone | 40 mmol, 6.64 g | OC1C2C(C3CC(CC1C3)C2)=O | C10H14O2
reactant | benzylbromide | 5.26 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydroxyadamantanone | OC12C(C3CC(CC(C1)C3)C2)=O | C10H14O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | nBu4NI | 4 mmol, 1.4 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
product | 5-(benzyloxy)adamantan-2-one | 7.93 g, 77% yield | C(C1=CC=CC=C1)OC12CC3C(C(CC(C1)C3)C2)=O | C17H20O2
